US04808605
A mixture of 30 g (0.277 mol) of o-phenylenediamine and 150 g of polyphosphoric acid ester (ppE) is heated to 120°. When the diamine has dissolved, 33 g (0.205 mol) of p-cyanophenylacetic acid are added thereto in one portion and the mixture is heated to 120° for a further 20 minuIes. After cooling to room temperature the viscous mass is treated with about 1 l of water and made weakly basic with solid sodium hydrogen carbonate. The mixture is extracted with methylene chloride and the extract is washed with water, dried over sodium sulphate and evaporated to dryness. Recrystallization of the residue from methylene chloride/ethyl acetate gives 29 g (60%) of 2-(p-cyanobenzyl)benzimidazole, m.p. 201°-203°, as a colourless crystalline powder.

reactant | o-phenylenediamine | 0.277 mol, 30 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | p-cyanophenylacetic acid | 0.205 mol, 33 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | about 1 l | O | H2O
product | 2-(p-cyanobenzyl)benzimidazole | 29 g, 60% | C(#N)C1=CC=C(CC=2NC3=C(N2)C=CC=C3)C=C1 | C15H11N3
